US07084178B2
(1S,2R)-2-[(4-Chlorobenzenesulfonyl)-(4-trifluoromethylsulfanyl-benzyl)-amino]-cyclohexanecarboxylic acid amide.
The titled compound was prepared in 64% yield from (1S,2R)-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide (100 mg, 0.316 mmol) and 1-bromomethyl-4-trifluoromethylsulfanyl-benzene (90 mg, 0.332 mmol) according to the procedure described in Example 3: 1H NMR (400 Mz, DMSO-d6) δ 7.79 (d, 2 H, J=8.8), 7.61 (d, 2 H, J=8.8), 7.59 (d, 2 H), J=8.1), 7.43 (d, 2 H, J=8.1), 7.32 (br s, 1 H), 6.65 (br s, 1 H), 4.62 (ABq, 2 H, Δv=73.1, Jab=17.3), 3.88 (dt, 1 H, Jd=12.7, Jt=3.9), 2.79 (m, 1 H), 2.43 (m, 1 H), 1.79 (m, 1 H), 1.65 (m, 2 H), 1.42–1.19 (m, 3 H), 0.94 (m, 1 H); MS m/e 529.1 (M+Na)+. Optical rotation: [α]D=−28.6 (c=5.87 mg/mL, MeOH).

reactant | (1S,2R)-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide | 0.316 mmol, 100 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@H](CCCC1)C(=O)N | C13H17ClN2O3S
reactant | 1-bromomethyl-4-trifluoromethylsulfanyl-benzene | 0.332 mmol, 90 mg | BrCC1=CC=C(C=C1)SC(F)(F)F | C8H6BrF3S
solvent | MeOH | CO | CH4O
product | (1S,2R)-2-[(4-Chlorobenzenesulfonyl)-(4-trifluoromethylsulfanyl-benzyl)-amino]-cyclohexanecarboxylic acid amide | 64% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@H](CCCC1)C(=O)N)CC1=CC=C(C=C1)SC(F)(F)F | C21H22ClF3N2O3S2
